US07354933B2
A solution of 0.3 g of 2-ethyl-4-(hydroxymethyl)pyridine in 3.5 ml of dichloromethane is added dropwise to a solution of 1.25 g of dibromotriphenylphosphorane in 4 ml of dichloromethane, under an inert atmosphere of argon at a temperature in the region of 0° C. The mixture is stirred to a temperature in the region of 20° C. over about 1 hour. The reaction medium is taken up in 50 ml of dichloromethane and then washed with 3×50 ml of water. The organic phase is dried over magnesium sulfate, filtered and then concentrated to dryness under reduced pressure. The residue thus obtained is purified by flash chromatography using a cartridge 20 mm in diameter packed with 10 g of 20-40 μm conditioned silica, and then eluted with a mixture (cyclohexane/ethyl acetate) (9/1) (v/v), at a flow rate of 8 ml/minute. The fractions between 80 and 120 ml are concentrated under reduced pressure. 0.062 g of 2-ethyl-4-(bromomethyl)pyridine is thus obtained.

reactant | 2-ethyl-4-(hydroxymethyl)pyridine | 0.3 g | C(C)C1=NC=CC(=C1)CO | C8H11NO
reactant | dibromotriphenylphosphorane | 1.25 g | BrP(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C18H15Br2P
solvent | dichloromethane | 3.5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 2-ethyl-4-(bromomethyl)pyridine | 0.062 g | C(C)C1=NC=CC(=C1)CBr | C8H10BrN
